US04824845
Example 5: Production of 2-methoxyacetylamino-4-cyclopropylamino-6-amino-1,3,5-triazine
To a suspension of 8.3 g of 2,4-diamino-6-cyclopropylamino-1,3,5-triazine and 7.1 g of triethylamine in 250 ml of tetrahydrofuran are slowly added dropwise, at about 60° C. (in about 5 hours), 8.9 g of methoxy-acetic acid anhydride dissolved in 30 ml of tetrahydrofuran. The reaction mixture is subsequently refluxed for 18 hours; it is filtered hot and then concentrated by evaporation until the commencement of crystallisation. After the addition of about 300 ml of diethyl ether, the product is filtered off in the form of white crystalline powder having a melting point of 152°-157° C.

reactant | 2,4-diamino-6-cyclopropylamino-1,3,5-triazine | 8.3 g | NC1=NC(=NC(=N1)N)NC1CC1 | C6H10N6
reactant | triethylamine | 7.1 g | C(C)N(CC)CC | C6H15N
reactant | methoxy-acetic acid anhydride | 8.9 g | COCC(=O)OC(COC)=O | C6H10O5
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-methoxyacetylamino-4-cyclopropylamino-6-amino-1,3,5-triazine | COCC(=O)NC1=NC(=NC(=N1)NC1CC1)N | C9H14N6O2
